US09034850B2
Step B. {(R)-2-[5-(4-Benzyl-piperazin-1-yl)-3-(2,6-difluoro-benzyl)-4-methyl-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester
{(R)-2-[5-bromo-3-(2,6-difluoro-benzyl)-4-methyl-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester (45 mg, 0.082 mmol), 1-benzyl-piperazine (216 mg, 1.23 mmol), and acetonitrile (500 μl) were placed in a microwave vessel and heated at 120° C. for 1 hr by microwave irradiation with stirring. Following concentration, the residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate, 2/1) and dried in a vacuum to afford the 33 mg of the compound as a colorless oil (yield 62%).

reactant | {(R)-2-[5-bromo-3-(2,6-difluoro-benzyl)-4-methyl-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 0.082 mmol, 45 mg | C(C)(C)(C)OC(N[C@@H](CN1C(N(C(=C(C1=O)Br)C)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C25H26BrF2N3O4
reactant | 1-benzyl-piperazine | 1.23 mmol, 216 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | acetonitrile | 500 μl | C(C)#N | C2H3N
product | {(R)-2-[5-(4-Benzyl-piperazin-1-yl)-3-(2,6-difluoro-benzyl)-4-methyl-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 33 mg, yield 62% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C(=C(C1=O)N1CCN(CC1)CC1=CC=CC=C1)C)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C36H41F2N5O4
